* Wurlitzer 200A Tremolo Oscillator Subcircuit
* =============================================
* Twin-T (parallel-T) oscillator using TR-3 (2N2924 NPN) with
* TR-4 (2N2924 NPN) as LED driver buffer.
*
* Topology CORRECTED Feb 2026: This is a TWIN-T oscillator, NOT
* a phase-shift oscillator. The twin-T network forms a notch filter
* in the negative feedback path of TR-3. At the notch frequency,
* feedback is minimized and loop gain peaks, satisfying the
* Barkhausen criterion for oscillation.
*
* The twin-T has non-standard component ratios:
*   R_shunt/R_series = 27K/680K = 0.040 (standard = 0.5)
*   C_shunt/C_series = 0.12/0.12 = 1.0 (standard = 2.0)
* This produces a shallow notch (~-23.5 dB) rather than a deep null,
* making oscillation easier to start and sustain at the cost of
* waveform purity (mildly distorted sinusoidal, est. THD 3-10%).
*
* Calculated notch/oscillation frequency: ~5.3 Hz
* Service manual specification: approximately 6 Hz
* Measured instruments: 5.3-7 Hz (component tolerance explains spread)
*
* CIRCUIT TOPOLOGY (verified from schematic screenshots Feb 2026):
*
*   TR-3 and TR-4 share a common collector node (Node G / led_out).
*   R17 (4.7K) from Vcc to Node G is the only collector load for both.
*   In the real circuit, R17 is in series with LG-1 LED (pin 1=cathode),
*   with LED anode (pin 2) returning to Vcc via cable. For the subcircuit
*   we approximate the LED path as a direct 4.7K to Vcc.
*
*   R15 (680K) pulls TR-3 base to GROUND (not Vcc!). The DC bias is set
*   by the voltage divider between:
*     - Twin-T DC feedback (R14+R13 = 1360K from collector to base)
*     - R15 (680K from base to ground)
*   This gives Vb3 ~ 1.25V (confirmed by Ebers-Moll: Vbe=0.57V at Ic~77uA).
*
*   TR-3 emitter connects directly to TR-4 base at the .68V junction.
*   R16 (10K) from this junction to ground provides the emitter DC path.
*   Most emitter current (~68uA) flows through R16; a small fraction
*   (~9uA) drives TR-4 base. TR-4 amplifies this to ~1.9mA, providing
*   the bulk of the shared collector current through 4.7K.
*
* Verified from docs/verified_wurlitzer_200A_series_schematic.pdf
* page 0, lower-left "VIBRATO OSCILLATOR" section.
* User-traced wiring confirmed Feb 2026.
*
* Pins:
*   led_out  - Shared collector output (Node G, connects to LG-1 LED)
*   vcc      - +15V supply
*   gnd      - Ground reference
*
* DC operating points (schematic annotations):
*   TR-3: B=1.25V, E=0.68V, C=5.9V (shared)
*   TR-4: B=0.68V, E=0V, C=5.9V (shared)
*   Output swing: 11.5 Vpp (near rail-to-rail)

.SUBCKT wurli_tremolo_osc led_out vcc gnd

* ============================================================
* Twin-T feedback network
* ============================================================
* Connected between shared collector (led_out) and TR-3 base (base3).
*
* Path 1 (C-R-C highpass T):
*   led_out --[C17 .12uF]-- node_hp --[C16 .12uF]-- base3
*   with R12 (27K) from node_hp to GND
*
* Path 2 (R-C-R lowpass T):
*   led_out --[R14 680K]-- node_lp --[R13 680K]-- base3
*   with C18 (0.12uF) from node_lp to GND

* --- Highpass T branch ---
C17   led_out  node_hp  0.12U
C16   node_hp  base3    0.12U
R12   node_hp  gnd      27K

* --- Lowpass T branch ---
R14   led_out  node_lp  680K
R13   node_lp  base3    680K
C18   node_lp  gnd      0.12U

* ============================================================
* TR-3: Oscillator amplifier (2N2924 NPN, common-emitter)
* ============================================================
* R15 (680K) pulls base to GROUND (bias pull-down).
* DC bias set by divider: twin-T DC path (1360K) vs R15 (680K).
* Collector connects to shared bus (led_out).
* Emitter connects to .68V junction (emit3 = TR-4 base).
Q3    led_out base3 emit3  Q2N2924
R15   base3   gnd   680K

* ============================================================
* Emitter / TR-4 base junction (.68V)
* ============================================================
* R16 (10K) provides DC emitter current path to ground.
* TR-3 emitter and TR-4 base share this node directly.
R16   emit3   gnd   10K

* ============================================================
* TR-4: LED driver buffer (2N2924 NPN, common-emitter)
* ============================================================
* Base driven directly from TR-3 emitter (.68V junction).
* Emitter grounded. Collector shares Node G with TR-3.
* TR-4 provides the bulk of collector current (~1.9mA)
* and the large output swing (11.5 Vpp).
Q4    led_out emit3 gnd  Q2N2924

* ============================================================
* Shared collector load: the drawn LED path (REVISED 2026-09-13)
* ============================================================
* Schemer-verified (#203720-S-3, robogogo t352/375): the load is the
* series chain Vcc -> R-18 (680) -> LG-1 pin 2 (LED anode) -> pin 1
* (cathode) -> R-17 -> Node G. R-18 is NOT in the LDR leg (old misread).
* R-17 (203717-2) is the wiper-strapped VIBRATO ADJUST depth trimmer;
* 4.7K = full value (one position — Phase-3 calibration decides the
* default; the print's "TYPICAL WAVE FORM" marks correspond to R-17
* near 0). LED current is the physical drive for the LG-1 cell; the
* light law lives outside this subcircuit. Requires LED_GAASP from
* models/diodes.lib.
R18      vcc  leda    680
D_LED    leda ledk    LED_GAASP
R17_trim ledk led_out 4.7K

.ENDS wurli_tremolo_osc
